Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
elective admission for high dose methotrexate
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ primarily ___ speaking man with coronary artery disease 

s/p BMS to large OM branch in ___ for inferior STEMI, HIV on 
ART (CD4 275, viral load undetectable in ___, 
high-grade CNS B cell lymphoma (brain stem) s/p brain biopsy, on 

high-dose MTX (started ___, presenting 
for cycle 9 of high dose methotrexate. After cycle 4 he had an 
MRI which showed improvement in his disease but some areas of 
residual enhancement. He continued on 2 week intervals until 
cycle 7, at which point MRI improved so switched to monthly 
cycles.

On arrival to the floor today he feels well. had a good month in 

___ with his family. He has no abdominal 
pain, no nausea, no vomiting, no fevers. He has no headache. 
He has increased sensitivity of his R scalp, which has been an 
ongoing problem for many years, since he had shingles. he has no 
runny nose, 
fevers, or cough. He has some tingling in his left foot which is 

stable. His vision is about the same (some double vision but 
improved from before). He has some pain in his ankle and in the 
small joints of his hands that gets better with movement.

Of note, the patient was admitted on ___ with anal HSV2 
infection. He was treated with treatment dose acyclovir for 7 
days and continued acyclovir daily for prophylaxis. As an 
outpatient he was found to have breakthrough lesions on 
suppressive acyclovir and his PCP started him on treatment doses 

of valacyclovir 1g BID. He has subsequently been transitioned to 

higher dose acyclovir 800mg BID and has not had any breakthrough 

lesions.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies chest 
pain, chest pressure, or weakness. Denies nausea, vomiting, 
constipation, abdominal pain. Denies dysuria, or 
myalgias. Denies rashes or skin changes. All other ROS negative  


 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX
-- ___ - C4D1 HD-MTX
-- ___   - C5D1 HD-MTX
-- ___  - C6D1 HD-MTX
-- ___   - C7D1 HD-MTX
-- ___   - C8D1 HD-MTX
 
PAST MEDICAL HISTORY:
-CNS B-cell Lymphoma
-CAD s/p BMS to large OM branch in ___ - chronically occluded 
LAD collateralized from the right coronary artery
-HIV on ART 
-history of pancreatitis ___ HIV medication
-Hypertension
-Hyperlipidemia
-Gastric ulcer
-anal HSV
-R ophthalmic zoster
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
Physical Exam:
VS: 98.9   129/80    77    18     98%RA
GEN: alert, oriented to name, place and situation. no acute
signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric,
MMM, OP clear no erythema.
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, no hepatosplenomegaly
EXTR: No lower leg edema. tingling sensation L foot but no
sensory loss. no swelling over joints of hands or L ankle
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major
muscle groups
PSYCH: Appropriate and calm. 
 
Pertinent Results:
==================================
              Labs
==================================
___ 12:30PM BLOOD WBC-6.4 RBC-4.55* Hgb-14.2 Hct-42.6 
MCV-94 MCH-31.3 MCHC-33.5 RDW-14.0 Plt ___
___ 06:30AM BLOOD WBC-4.2 RBC-4.53* Hgb-13.8* Hct-41.8 
MCV-92 MCH-30.5 MCHC-33.1 RDW-14.0 Plt ___
___ 12:30PM BLOOD Glucose-128* UreaN-11 Creat-1.0 Na-138 
K-4.1 Cl-104 HCO3-24 AnGap-14
___ 05:29AM BLOOD Glucose-125* UreaN-6 Creat-0.9 Na-135 
K-3.8 Cl-99 HCO3-29 AnGap-11
___ 12:30PM BLOOD ALT-18 AST-20 AlkPhos-71 TotBili-0.5
___ 05:29AM BLOOD ALT-28 AST-26 AlkPhos-75 TotBili-0.9
___ 12:30PM BLOOD Calcium-9.5 Phos-3.4 Mg-1.8
___ 05:55PM BLOOD mthotrx-6.2
___ 06:30AM BLOOD mthotrx-0.45
___ 05:29AM BLOOD mthotrx-0.07

==================================
            Radiology            
==================================
MRI brain ___ preliminary report
FINDINGS:
 
When compared to the most recent prior examination, there are 
new relatively
symmetric confluent areas of T2/FLAIR hyperintensities involving 
the deep and
periventricular white matter without associated enhancement or 
mass effect.
 
Again identified is inhomogeneous susceptibility status post 
biopsy in the
region of the fourth ventricle on the right likely related to 
chronic blood
products with associated adjacent parenchymal T2/FLAIR 
hyperintensity and
minimal residual enhancement. There is no evidence of residual 
mass or new
areas of abnormal enhancement. A right frontal catheter tract is 
again noted.
 
There is no acute intracranial hemorrhage. Diffusion weighting 
imaging does
not demonstrate evidence of acute infarct. Ventricles and extra 
axial spaces
are within normal limits. The major intracranial vessels exhibit 
the expected
signal void related to vascular flow.
 
The paranasal sinuses demonstrate scattered areas of mucosal 
thickening. There
is fluid signal in scattered mastoid air cells bilaterally. The 
sella turcica,
craniocervical junction, and orbits are unremarkable.
 
IMPRESSION:
 
 
1. New relatively symmetric confluent areas of T2/FLAIR deep and
periventricular bihemispheric white matter signal abnormality 
without
associated enhancement or mass effect. Findings may be related 
to HIV
encephalopathy. Other differential considerations would include 
drug/treatment
related changes, toxic/metabolic etiologies, infectious 
etiologies (such as
PML, SSPE).
2. Grossly stable minimal residual enhancement adjacent to the 
fourth
ventricle on the right with mild adjacent T2/FLAIR 
hyperintensity consistent
with postsurgical changes without evidence of a new lesion or 
new areas of
abnormal enhancement.
 
Brief Hospital Course:
___ male with HIV, CAD, CNS lymphoma here for cycle 9 high dose 

methotrexate treatment. MRI after cycle 4 showed residual 
disease, so he continued on 2 week intervals until cycle 7, at 
which point MRI improved so switched to monthly cycles. After 
urinary alkalinization, he received methotrexate 17200mg 
(8g/m2).  
This was followed by leucovorin rescue 24 hours later. His 
methotrexate level on ___ is 0.07. He was discharged 
home in good condition. He has been asked to report back to ___ 
___ in 4 weeks for the next cycle (#10).
He had an MRI after this cycle which shows some changes possibly 
HIV encephalopathy but no evidence of lymphoma recurrence. 
For his HSV, he has been on acyclovir 800mg BID and will be 
monitored for symptoms. He continued his metoprolol and 
lisinopril at 12.5mg and 2.5mg respectively with good control of 
blood 
pressure. On previous admissions his blood pressures have run 
slightly low but he has continued these medications without 
problem. During this admission he had continued double vision, 
which he has had since diagnosis. It has improved since original 
diagnosis and is now stable. He will see his ophthalmologist 
next month.   

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min.

# Active meds: See below.

____________________________________
___, MD, pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___ ___ ___. You were admitted for treatment of
your brain lymphoma with high dose methotrexate chemotherapy.
You tolerated the chemo very well with no complications. You
should return to 11 ___ in 1 month for your next treatment.
 
Followup Instructions:
___